US04235875
4-n-decyl-1-(4-hydroxybutyl)piperidine hydrochloride
To a mixture of 23 grams of 4-n-decylpiperidine and 13 grams of triethylamine in 100 ml. of benzene, is slowly added with agitation 17 grams of succinic acid ethylesterchloride. The reaction is violent and is allowed to go to completion after the addition. The precipitate is filtered off. The solution is added to a mixture of 10 grams LAH in 500 ml. of dry diethylether. The reaction mixture is refluxed for three hours. The reaction complex is decomposed by slow addition of water. The precipitate is filtered off. The ether-benzene solution is dried and evaporated. The residue is distilled to give the desired product at 145°-147° Centigrade/0.01 mm. Hg. The yield is 28 grams (97%). The hydrochloride is precipitated as in Example 1. After recrystallization, the melting point of the hydrochloride is 152°-154° Centigrade.

reactant | 4-n-decylpiperidine | 23 grams | C(CCCCCCCCC)C1CCNCC1 | C15H31N
reactant | triethylamine | 13 grams | C(C)N(CC)CC | C6H15N
reactant | succinic acid ethylesterchloride | 17 grams | [Cl-].C(C)OC(CCC(=O)O)=O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-n-decyl-1-(4-hydroxybutyl)piperidine hydrochloride | Cl.C(CCCCCCCCC)C1CCN(CC1)CCCCO | InChI=1S/C19H39NO.ClH/c1-2-3-4-5-6-7-8-9-12-19-13-16-20(17-14-19)15-10-11-18-21;/h19,21H,2-18H2,1H3;1H
